US08426414B2
Part E: [1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-cyclopentyl]-carbamic acid tert-butyl ester
A mixture of trans-2-(6-fluoro-pyridin-2yl)-cyclopropanecarboxylic acid (˜0.9 mmol) in thionyl chloride (2 mL) was heated at reflux for overnight. The mixture was concentrated and dried under high vacuum for 2 h. Then the residue was dissolved in DCM (4 mL) and added dropwise to a solution of {1-[(4-Bromo-phenylamino)-methyl]-cyclopentyl}-carbamic acid tert-butyl ester (370 mg, 1 mmol) and triethyl amine (280 uL) in DCM (4 mL). The resulting mixture was stirred at rt for over night. The reaction mixture was subjected to flash column directly (20% EtOAc in hexane) to give the desired product as a white solid (348 mg, ˜70%). MS (MH+ 532 and 534).

reactant | trans-2-(6-fluoro-pyridin-2yl)-cyclopropanecarboxylic acid | ˜0.9 mmol | FC1=CC=CC(=N1)[C@H]1[C@@H](C1)C(=O)O | C9H8FNO2
reactant | {1-[(4-Bromo-phenylamino)-methyl]-cyclopentyl}-carbamic acid tert-butyl ester | 1 mmol, 370 mg | C(C)(C)(C)OC(NC1(CCCC1)CNC1=CC=C(C=C1)Br)=O | C17H25BrN2O2
reactant | triethyl amine | 280 uL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | [1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-cyclopentyl]-carbamic acid tert-butyl ester | 348 mg, ~70% | C(C)(C)(C)OC(NC1(CCCC1)CN(C(=O)[C@H]1[C@@H](C1)C1=NC(=CC=C1)F)C1=CC=C(C=C1)Br)=O | C26H31BrFN3O3
